US07259266B2
Step 2. Preparation of 4-ethvnylbenzenesulfonamide
To a solution of 4-[(trimethylsilyl)ethynyl]benzenesulfonamide prepared as in Step 1 (1.69 g, 3.13 mmole) in anhydrous THF under a N2 atmosphere was added TBAF (10 mL-1.0 M in THF, 10 mmole) and the resulting mixture was stirred at room temperature. When silica TLC (1:1 hexanes:EtOAc) indicated the reaction was complete, 10% HCl and EtOAc were added. The EtOAc layer was separated, washed twice with H2O, aqueous NH4Cl, dried over Na2SO4 and concentrated in vacuo to give 0.748 g (62% yield) of the product: ESHRMS m/z 199.0506 (M+NH4, C8H7NO2SNH4, Calc'd 199.0541).

reactant | 4-[(trimethylsilyl)ethynyl]benzenesulfonamide | C[Si](C)(C)C#CC1=CC=C(C=C1)S(=O)(=O)N | C11H15NO2SSi
reactant | TBAF | 10 mmole | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-ethvnylbenzenesulfonamide | 0.748 g, 62% yield | C(#C)C1=CC=C(C=C1)S(=O)(=O)N | C8H7NO2S
